US09062070B2
To a 2 L 3 neck flask equipped with overhead stirrer, N2 inlet, and condenser were charged 4-bromo-3-hydroxymethyl-2-methyl phenol (100 g, 461 mmol), CuCN (83.0 g, 921 mmol), and DMF (500 mL). The solution was sparged with N2 for 15 min then heated to 145° C. to obtain a homogeneous solution. The solution was aged at 145° C. for 2 h, then the reaction mixture was cooled to 95° C. 41.5 mL water was added (sparged with N2), and the reaction aged for 20 h. The reaction was cooled to RT then the solids filtered through solka flok and the cake washed with 50 mL DMF. To a 3 L flask containing 1 L EtOAc was added the DMF filtrate. A precipitate coating formed in bottom of flask. The DMF/EtOAc suspension was filtered through solka flok and the cake was washed with 250 mL EtOAc. The resulting filtrate was washed with 5% brine solution (3×500 mL). The aqueous layers were extracted with 500 mL EtOAc and the combined organics were dried over MgSO4, filtered and evaporated. The solids were slurried in 250 mL MTBE at RT then filtered and washed with 100 mL MTBE. The solids were dried under vacuum at RT, providing 5-hydroxy-4-methyl-3H-isobenzofuran-1-one.

reactant | 4-bromo-3-hydroxymethyl-2-methyl phenol | 461 mmol, 100 g | BrC1=C(C(=C(C=C1)O)C)CO | C8H9BrO2
reactant | CuCN | 921 mmol, 83.0 g | C(#N)[Cu]
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | water | 41.5 mL | O | H2O
product | 5-hydroxy-4-methyl-3H-isobenzofuran-1-one | OC=1C(=C2COC(C2=CC1)=O)C | C9H8O3
